Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
morphine / Lipitor
 
Attending: ___.
 
Chief Complaint:
porto-venous and mesenteric venous gas; ischemic bowel; sepsis

 
Major Surgical or Invasive Procedure:
___ exploratory laparotomy, extended right colectomy, left 
in discontinuity  
___ Abdominal closure, end ileostomy, long ___ 
___ PEG  

 
History of Present Illness:
___, poor historian, transferred from ___ after CT obtained
today returned with extensive portal and mesenteric venous gas,
pneumatosis and concerns for bowel ischemia. Pt with 3 days of
abdominal cramping with diarrhea x 3 days. Reported to ___ today where initial evaluation was performed. Minimally
resuscitated per records. He reports feeling dehydrated,
weakened, and now with nausea. Foley placed in OSH. Denies any
fevers or dysuria. 

 
Past Medical History:
PMH: CAD, CHF, afib on coum, HL, HTN
PSH: appy, GB, R colectomy with colostomy, takedown 

 
Social History:
___
Family History:
NC
 
Physical Exam:
97.8  86  120/58  18  96%RA
NAD, alert, mumbles some comprehensible words but certainly not 
oriented
Irregularly irregular
No resp distress
Abd soft, obese, NT, ND, PEG in place, ostomy functional, 
incision dry and approximated
Ext wwp x4
 
Pertinent Results:
___ 01:45PM BLOOD WBC-9.4 RBC-5.65 Hgb-18.4* Hct-55.2* 
MCV-98 MCH-32.6* MCHC-33.4 RDW-14.1 Plt ___
___ 01:43AM BLOOD WBC-4.6 RBC-4.34* Hgb-14.3 Hct-42.3 
MCV-97 MCH-33.0* MCHC-33.9 RDW-14.1 Plt ___
___ 02:17AM BLOOD WBC-17.1*# RBC-3.61* Hgb-11.5* Hct-35.8* 
MCV-99* MCH-31.9 MCHC-32.2 RDW-14.0 Plt ___
___ 01:56AM BLOOD WBC-23.0* RBC-3.57* Hgb-11.5* Hct-35.9* 
MCV-101* MCH-32.4* MCHC-32.1 RDW-13.9 Plt ___
___ 06:55AM BLOOD WBC-9.6 RBC-2.93* Hgb-9.6* Hct-29.5* 
MCV-101* MCH-32.9* MCHC-32.7 RDW-13.3 Plt ___

___ 04:55AM BLOOD WBC-11.9* RBC-2.90* Hgb-9.3* Hct-28.9* 
MCV-100* MCH-32.0 MCHC-32.1 RDW-13.4 Plt ___
___ 01:45PM BLOOD ___ PTT-37.1* ___
___ 01:51PM BLOOD ___ PTT-61.5* ___
___ 10:30AM BLOOD ___ PTT-47.3* ___
___ 04:55AM BLOOD ___
___ 01:45PM BLOOD Glucose-150* UreaN-58* Creat-6.2* Na-140 
K-3.4 Cl-98 HCO3-11* AnGap-34*
___ 09:04PM BLOOD Glucose-152* UreaN-52* Creat-4.8* Na-135 
K-3.1* Cl-105 HCO3-16* AnGap-17
___ 01:43AM BLOOD Glucose-118* UreaN-53* Creat-4.9* Na-136 
K-3.7 Cl-103 HCO3-15* AnGap-22*
___ 12:36AM BLOOD Glucose-97 UreaN-61* Creat-4.6* Na-132* 
K-4.1 Cl-101 HCO3-18* AnGap-17
___ 02:13AM BLOOD Glucose-93 UreaN-67* Creat-4.1* Na-128* 
K-3.5 Cl-100 HCO3-18* AnGap-14
___ 02:12AM BLOOD Glucose-83 UreaN-65* Creat-3.8* Na-137 
K-3.3 Cl-107 HCO3-19* AnGap-14
___ 02:03AM BLOOD Glucose-90 UreaN-65* Creat-3.3* Na-141 
K-3.8 Cl-111* HCO3-21* AnGap-13
___ 02:09AM BLOOD Glucose-112* UreaN-74* Creat-3.1* Na-145 
K-4.3 Cl-114* HCO3-22 AnGap-13
___ 02:17AM BLOOD Glucose-106* UreaN-80* Creat-2.8* Na-151* 
K-4.6 Cl-113* HCO3-25 AnGap-18
___ 01:59AM BLOOD Glucose-164* UreaN-84* Creat-2.6* Na-150* 
K-4.2 Cl-113* HCO3-26 AnGap-15
___ 01:56AM BLOOD Glucose-140* UreaN-92* Creat-2.7* Na-146* 
K-4.9 Cl-110* HCO3-26 AnGap-15
___ 02:12AM BLOOD Glucose-103* UreaN-107* Creat-3.2* Na-141 
K-5.3* Cl-101 HCO3-25 AnGap-20
___ 04:19AM BLOOD Glucose-111* UreaN-123* Creat-3.7* 
Na-147* K-4.8 Cl-103 HCO3-28 AnGap-21*
___ 12:22AM BLOOD Glucose-128* UreaN-132* Creat-3.6* 
Na-147* K-4.7 Cl-100 HCO3-30 AnGap-22*
___ 02:07AM BLOOD Glucose-116* UreaN-124* Creat-3.3* Na-142 
K-3.9 Cl-97 HCO3-30 AnGap-19
___ 01:45AM BLOOD Glucose-110* UreaN-109* Creat-2.7* Na-138 
K-4.2 Cl-95* HCO3-29 AnGap-18
___ 06:55AM BLOOD Glucose-112* UreaN-93* Creat-2.2* Na-140 
K-4.3 Cl-100 HCO3-31 AnGap-13
___ 09:30AM BLOOD Glucose-122* UreaN-74* Creat-2.1* Na-146* 
K-4.3 Cl-104 HCO3-28 AnGap-18
___ 05:20AM BLOOD Glucose-125* UreaN-68* Creat-2.0* Na-142 
K-4.3 Cl-103 HCO3-29 AnGap-14
___ 05:45AM BLOOD Glucose-119* UreaN-73* Creat-2.0* Na-145 
K-4.5 Cl-103 HCO3-27 AnGap-20
___ 05:30AM BLOOD Glucose-131* UreaN-81* Creat-2.3* Na-146* 
K-4.3 Cl-106 HCO3-26 AnGap-18
___ 05:30AM BLOOD Glucose-128* UreaN-91* Creat-2.8* Na-143 
K-4.4 Cl-102 HCO3-27 AnGap-18
___ 05:50AM BLOOD Glucose-129* UreaN-97* Creat-3.2* Na-141 
K-4.8 Cl-99 HCO3-26 AnGap-21*
___ 04:55AM BLOOD Glucose-83 UreaN-93* Creat-2.8* Na-143 
K-4.9 Cl-104 HCO3-26 AnGap-18
___ 05:20AM BLOOD Glucose-86 UreaN-75* Creat-2.3* Na-146* 
K-4.2 Cl-107 HCO3-27 AnGap-16
___ 04:55AM BLOOD Glucose-133* UreaN-60* Creat-1.9* Na-145 
K-4.0 Cl-107 HCO3-27 AnGap-15
___ 01:45PM BLOOD ALT-36 AST-28 AlkPhos-83 TotBili-0.5
___ 06:11AM BLOOD ALT-14 AST-37 AlkPhos-33* TotBili-2.1*
___ 10:07PM BLOOD ALT-17 AST-26 AlkPhos-107 TotBili-2.8*
___ 10:00PM BLOOD CK(CPK)-202
___ 05:10AM BLOOD CK(CPK)-236
___ 01:00PM BLOOD CK(CPK)-187
___ 01:45PM BLOOD Lipase-27
___ 01:45PM BLOOD cTropnT-0.05*
___ 01:51PM BLOOD CK-MB-9 cTropnT-<0.01
___ 09:20PM BLOOD CK-MB-8 cTropnT-<0.01
___ 10:00PM BLOOD CK-MB-2 cTropnT-0.10*
___ 05:10AM BLOOD CK-MB-2
___ 01:00PM BLOOD CK-MB-3
___ 01:45PM BLOOD Albumin-4.4 Calcium-9.2 Phos-6.8* Mg-1.9
___ 09:04PM BLOOD Calcium-7.9* Phos-4.3 Mg-2.5
___ 04:55AM BLOOD Calcium-8.9 Phos-3.5 Mg-1.7
___ 09:04PM URINE Color-AMBER Appear-Cloudy Sp ___
___ 09:04PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-TR Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 09:04PM URINE RBC->182* WBC-159* Bacteri-MOD Yeast-NONE 
Epi-0 TransE-1
___ 09:04PM URINE CastGr-8* CastHy-32*
___ 09:04PM URINE Mucous-OCC
___ 09:04PM URINE Hours-RANDOM Creat-111 Na-19 K-52 Cl-14
___ 04:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:10PM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 04:10PM URINE RBC-29* WBC-3 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 04:10PM URINE CastHy-1*
___ 04:10PM URINE Mucous-RARE
___ 02:03AM URINE Hours-RANDOM UreaN-670 Creat-61 Na-21 
K-20 Cl-27
___ 10:13PM URINE Color-Yellow Appear-Hazy Sp ___
___ 10:13PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 10:13PM URINE RBC-7* WBC-4 Bacteri-NONE Yeast-NONE 
Epi-0
___ 10:13PM URINE CastHy-4*
___ 10:13PM URINE Mucous-RARE
___ 10:13PM URINE Hours-RANDOM UreaN-771 Creat-118 Na-10 
K-80 Cl-11
___ 01:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:30PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:30PM URINE Mucous-RARE

The following cultures were all negative:
Blood culture: ___
Urine culture: ___
C.diff: ___

CT ABDOMEN W/O CONTRAST Study Date of ___ 1:14 ___ 
Extensive mesenteric venous gas and portal venous gas is 
concerning for a 
large territory of ischemic bowel.  Ischemic bowel appears 
grossly in the 
distribution of the SMA.  The SMA calcifications are only mild.  
Patency of the SMA cannot be assessed without intravenous 
contrast. 

CT HEAD W/O CONTRAST Study Date of ___ 10:___vidence of acute intracranial process.  Chronic changes 
as described above. MRI would be more sensitive for brainstem 
ischemia. 

CT ABD & PELVIS W/O CONTRAST Study Date of ___ 4:09 ___ 
1.  Status post right colectomy and diverting ileostomy with no 
evidence of fluid collection or abscess formation.   
2.  Small bowel and sigmoid diverticulosis, no evidence of acute 

diverticulitis.   
3.  Left abdominal wall defect containing multiple loops of 
small bowel 
without evidence of bowel strangulation, likely secondary to 
diastasis of the rectus abdominis muscles versus herniation.   

CT CHEST W/O CONTRAST Study Date of ___ 4:23 ___ 
1.  Mild opacification at the lung bases, is most likely 
atelectasis. 
Endobronchial material is either retained secretions or recent 
aspiration.  None of the contrast agent filling the stomach is 
present in the tracheobronchial tree. 
2.  Asbestos-related pleural plaques.  No evidence of 
intrathoracic 
malignancy. 
3.  Mild-to-moderate emphysema. 
4.  Moderate cardiomegaly.  No pulmonary edema. 

CT ABD & PELVIS W/O CONTRAST Study Date of ___ 10:56 ___ 
Postoperative changes from previous ileostomy and right 
hemicolectomy without evidence of obstruction or extraluminal 
fluid collection to suggest abscess. 
Marked bladder distention.  Consideration of Foley catheter 
placement is 
recommended if there is a history of urinary retention. 

MR HEAD W/O CONTRAST Study Date of ___ 2:56 ___ 
No acute infarction.  No evidence for other acute intracranial 
abnormalities. 

 
Brief Hospital Course:
___ INR 2.3, d/c hep gtt, MS slightly improved, nystatin 
for (early) ___  
___ tube feeding resumed, heparin drip  
___ OR for PEG  
___ Foley placed for overflow incontinence  
___ every other staple removed. self d/c'd ___ - 
replaced & bridled  
___ dobhoff replaced, dc'd foley, desat to 90  
___ Increase O2 req day, less responsive on ___ exam, more 
somnolent  
___ ABG, CXR, EKG, serial cardiac enzymes ordered   
Mr. ___ was admitted to the Acute Care Surgery service at 
___ on ___ with 
pneumatosis and portal/mesenteric venous gas, sepsis, and acute 
renal failure. He was promptly taken to the operating room for 
an exploratory laparotomy and right colectomy for ischemia. For 
further details of the procedure, please see the operative 
report. The patient was left in discontinuity and brought to the 
intensive care unit for resuscitation. 

On ___, the pt returned to the operating room for an end 
ileostomy and abdominal closure. He then returned intubated to 
the intensive care unit where his hypotension, arrhythmias (runs 
of vtach, trigeminy), renal failure, and altered mental status 
were managed. Finally, on ___, the patient was extubated. 
On ___, a CT scan was obtained given the patient's 
leukocytosis but did not show any abscesses. On ___, 
Nephrology was consulted regarding the patient's persistent 
renal failure, which they felt was prerenal. The following day, 
the patient was started on 1:1 replacement of his ileostomy 
output with lactated ringers and immodium was started. 

On ___ the patient's diet was advanced to purees after he was 
cleared by speech and swallow. He was started on erythromycin 
for improved motility. The following day, on ___, the patient 
was transferred to the floor. That same day, Speech recommended 
the patient be made NPO for concern of aspiration. He was given 
tube feeds via a dobhoff catheter. On ___, the patient was 
taken back to the operating room for placement of a percutaneous 
gastrostomy tube. 

While on the floor, the patient's foley was removed and then 
replaced for urinary retention. His dobhoff was self d/c'd and 
replaced twice. His mental status waxed and waned although was 
peristently poor. He was bridged back to coumadin with a heparin 
drip. His creatinine and BUN slowly drifted down. 

On ___, the patient's mental status was notably improved. He 
answered some questions appropriately and spoke some 
comprehensible words. He was screened and accepted at a rehab 
facility where he will continue his recovery. 

 
Medications on Admission:
Crestor 20'
Lasix 40'
Lisinopril 40'
KCl 20 meq daily
MVI
Norvasc
Coumadin 5qpm ___ 2.5qpm Th

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
2. Furosemide 40 mg PO DAILY 
3. LOPERamide 2 mg PO QID:PRN administer for high ostomy output 
4. Nystatin Oral Suspension 5 mL PO QID Duration: 3 Days 
5. Opium Tincture 5 DROP PO Q8H 
6. Rosuvastatin Calcium 20 mg PO DAILY 
___  MD to order daily dose PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
ischemic colitis
sepsis
acute renal failure
altered mental status

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You came to the hospital with abdominal pain and had a CT scan 
which showed insufficient blood flow to your large bowel. You 
were taken to the operating room for exploration and had your 
right colon removed. Two days later, your abdomen was 
re-explored, an ileostomy was made, and your abdomen was closed. 
Due to your altered mental status causing your to be unable to 
eat, you later had a feeding tube placed. Your ileostomy has 
been working and you are tolerating tube feeds. Your mental 
status has been improving and your swallowing ability should be 
evaluated next week.  

Please follow up in ___ clinic.

ACTIVITY:
Don't lift more than ___ lbs for ___ weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.

HOW YOU MAY FEEL:
You may feel weak or "washed out" for 6 weeks. You might want to 
nap often. Simple tasks may exhaust you.
You might have trouble concentrating or difficulty sleeping. You 
might feel somewhat depressed.
You could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.

YOUR INCISION:
You may gently wash away dried material around your incision.
It is normal to feel a firm ridge along the incision. This will 
go away.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless you were told 
otherwise.
You may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
Ove the next ___ months, your incision will fade and become 
less prominent.

Monitoring Ostomy output/Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 1000mL to 1500mL per day.
*If Ostomy output >1 liter, take 4mg of Imodium, repeat 2mg with 
each episode of loose stool. Do not exceed 16mg/24 hours.

PAIN MANAGEMENT:
You may take tylenol as needed for pain. 
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain

MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
In some cases you will have a prescription for antibiotics or 
other medication.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.

DANGER SIGNS:
Please call your surgeon if you develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase in drainage from the wound

 
Followup Instructions:
___